data/oMe_Silver.jsonl
{"reaction_id": "NR-136_5-CC_6-C(F)(F)F","level": "medium","name": "Madelung Indole Synthesis","reactants_smiles": ["C(=O)(C(F)(F)F)Nc1ccccc1C([H])(CC)","CCCC[Li]"],"products_smiles": ["C1(C(F)(F)F)=C(CC)Nc2ccccc12"],"conditions": "Base","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(F)(F)F)[N-]c1ccccc1C([H])(CC)","step_weight": 0,"rationale": "Strong base deprotonates the amide nitrogen due to its relatively acidic N–H, enhanced by resonance stabilization of the resulting anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(F)(F)F)[N-]c1ccccc1[C-](CC)","step_weight": 0,"rationale": "The benzylic proton adjacent to the aromatic ring is acidic due to resonance stabilization of the resulting carbanion into the aromatic system."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(F)(F)F)([O-])[N-]c2ccccc2C1(CC)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)(O)[N-]c2ccccc2C1(CC)","step_weight": 0,"rationale": "Proton transfer to the alkoxide oxygen stabilizes the intermediate, driven by the high basicity of the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)(O)Nc2ccccc2C1(CC)","step_weight": 0,"rationale": "Protonation of the nitrogen restores its neutral form, preparing the system for subsequent dehydration."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)([OH2+])Nc2ccccc2C1(CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group (water), facilitated by acidic conditions."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(C(F)(F)F)=[NH+]c2ccccc2C1(CC)","step_weight": 0,"rationale": "Elimination of water occurs to form the iminium species, driven by the stability of the conjugated heteroaromatic system forming."},{"step": 8,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)=C(CC)Nc2ccccc12","step_weight": 0,"rationale": "Deprotonation adjacent to the iminium nitrogen restores aromaticity, yielding the stable indole product."}],"description": "Under strong base, the amide nitrogen and benzylic position are deprotonated, enabling intramolecular nucleophilic attack on the carbonyl to form a cyclic intermediate. Subsequent proton transfers and dehydration yield the indole core via the Madelung synthesis pathway."}
{"reaction_id": "NR-001_1-COc1ccccc1_2-CC1(C)CCCC1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(COc1ccccc1)(CC1(C)CCCC1)C=O","C(COc1ccccc1)(CC1(C)CCCC1)C=O"],"products_smiles": ["C(COc1ccccc1)(CC1(C)CCCC1)C(O)C(COc1ccccc1)(CC1(C)CCCC1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(CC1(C)CCCC1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(COc1ccccc1)(CC1(C)CCCC1)C([O-])C(COc1ccccc1)(CC1(C)CCCC1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(CC1(C)CCCC1)C(O)C(COc1ccccc1)(CC1(C)CCCC1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
